US09260429B2
6-chloro-1,2-dimethyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole (80 mg, 0.34 mmol) was dissolved in DMF (6 mL). To this solution was added CuI (6 mg, 0.034 mmol), L-proline (8 mg, 0.068 mmol), K3PO4 (145 mg, 0.68 mmol). The reaction mixture was stirred for 10 min at room temperature followed by addition of 4-(1-bromoprop-1-en-2-yl)-2-fluoro-1-methoxybenzene (100 mg, 0.40 mmol). The reaction mixture was heated at 80° C. for 18 h. Solvent was evaporated under reduced pressure, the residue was diluted with brine and extracted with ethyl acetate. Organic layer was dried over Na2SO4, and concentrated under reduced pressure. The crude product was purified by silica gel chromatography to obtain 17 mg of 6-chloro-9-(2-(3-fluoro-4-methoxyphenyl)prop-1-enyl)-1,2-dimethyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole. 1H NMR (DMSO) OXALATE SALT 7.65 (d, 2H), 7.47 (dd, 1H), 7.25 (d, 2H), 7.20 (s, 1H), 7.12 (s, 1H), 3.90 (s, 3H), 3.40 (m, 3H), 2.96 (m, 2H), 2.80 (s, 3H), 1.80 (s, 3H), 1.50 (d, 3H).

reactant | 6-chloro-1,2-dimethyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole | 0.34 mmol, 80 mg | ClC=1C=C2C3=C(NC2=CC1)C(N(CC3)C)C | C13H15ClN2
reactant | L-proline | 0.068 mmol, 8 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | K3PO4 | 0.68 mmol, 145 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 4-(1-bromoprop-1-en-2-yl)-2-fluoro-1-methoxybenzene | 0.40 mmol, 100 mg | BrC=C(C)C1=CC(=C(C=C1)OC)F | C10H10BrFO
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 0.034 mmol, 6 mg | [Cu]I
product | 6-chloro-9-(2-(3-fluoro-4-methoxyphenyl)prop-1-enyl)-1,2-dimethyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole | 17 mg | ClC=1C=C2C3=C(N(C2=CC1)C=C(C)C1=CC(=C(C=C1)OC)F)C(N(CC3)C)C | C23H24ClFN2O
